US08461196B2
B. Preparation of (±)-1-(3,4-dichloro-phenyl)-2-oxo-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester
To a 50 mL, round-bottomed flask was added 1-(3,4-dichlorophenyl)-3-aza-bicyclo[3.1.0]hexan-2-one, a stir bar, triethylamine, DMAP, and DCM. The resulting brown suspension was stirred under Ar (g), and to this was added drop-wise, a solution of di-tert-butyl dicarbonate in 4.1 mL of DCM over 10-15 min. The suspension became a solution within 1 hour and stirring continued overnight. The solution was quenched with isopropyl amine and stirred at room temperature for 1 hour. The organic solution was washed with 0.5N HCl (25 mL), water (25 mL), and brine (20 mL). The organic layer was dried over magnesium sulfate for 1 hour, filtered, concentrated, and dried. The brown tar was treated with 20 mL hexanes and placed in a freezer for 24 h. The resulting solid was warmed to ambient temperature and triturated with hexanes. The resulting powder was collected by vacuum filtration and dried under high vacuum for 24 h to afford a powder. A second crop could be collected by chromatography of the filtrate using 4/1 hex/EtOAc. Yield: 1.21 g 43%; 1H NMR (300 MHz, CDCl3) : 7.50 (d, 1H, J=1.8 Hz, ArH), 7.39 (d, 1H, J=9.0 Hz, ArH), 7.24-28 (m, 1H, ArH), 3.91 (dd, 1H, J=5.4 Hz, CHCH2), 3.79 (d, 2H, J=9.0 Hz, CH2N), 1.45-1.58 (m, 10H, tert-Bu, ArCCH2), 1.30 (t, 1H, J=4.8 Hz, ArCCH2).

reactant | 1-(3,4-dichlorophenyl)-3-aza-bicyclo[3.1.0]hexan-2-one | ClC=1C=C(C=CC1Cl)C12C(NCC2C1)=O | C11H9Cl2NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 4.1 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(3,4-dichloro-phenyl)-2-oxo-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2(CC2C1)C1=CC(=C(C=C1)Cl)Cl)=O | C16H17Cl2NO3
